US05262433
To a solution of 1 g (5.3 mM) of [5-(3-furyl)tetrazol-1-yl] acetic acid in 5 ml of ethylene glycol was aded 0.5 ml of sulfuric acid. After the addition, the mixture was stirred at 90° C. for 2.5 hrs. The mixture was then poured into ice-water and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatogrpahy (eluent: chloroform/methyl alcohol=50/1) for separation and purification to give 670 mg (yield 54.6%) of [5-(3-furyl)tetrazol-1-yl] acetic acid 2-hydroxyethyl ester.

reactant | [5-(3-furyl)tetrazol-1-yl] acetic acid | 5.3 mM, 1 g | O1C=C(C=C1)C1=NN=NN1CC(=O)O | C7H6N4O3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | [5-(3-furyl)tetrazol-1-yl] acetic acid 2-hydroxyethyl ester | 670 mg, yield 54.6% | OCCOC(CN1N=NN=C1C1=COC=C1)=O | C9H10N4O4
